US05354866
A. Methyl 3-(1-Benzimidazolyl)propionate
A solution of 10.0 g (84 mmol) of benzimidazole, 22.7 ml (250 mmol) of methyl acrylate and 3 drops of DBU in 50 ml of tetrahydrofuran was heated at reflux for 2 days. The resulting solution was concentrated in vacuo, and the residue was purified by silica gel chromatography using 3% methanol in chloroform to provide 15.7 g (92%) of the desired compound (Rf 0.58, 10% methanol in chloroform).

reactant | benzimidazole | 84 mmol, 10.0 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | methyl acrylate | 250 mmol, 22.7 ml | C(C=C)(=O)OC | C4H6O2
catalyst | DBU | 3 drops | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl 3-(1-Benzimidazolyl)propionate | 15.7 g | N1(C=NC2=C1C=CC=C2)CCC(=O)OC | C11H12N2O2
